US07893352B2
4,7-diphenyl-2,9-di-o-tolyl-1,10-phenanthroline (o-TBP)
This yellow compound was prepared in a process analogous to the synthesis of m-TBP. However, the reaction product consisted of mono-substituted and di-substituted bathophenanthroline. O-TBP was obtained after running chromatography in a silica/mixture of methanol/CH2Cl2 (1:1) column as the first eluent in a 20 percent yield. Mono-o-TBP was obtained as the second eluent in a 50 percent yield. 1H NMR (500 MHz, CDCl3), ppm: 7.97 (s, 2H), 7.85 (s, 2H), 7.77 (s, 2H), 7.64-7.59 (m, 4H), 7.95-7.50 (m, 6H), 7.35 (m, 6H), 2.65 (s, 6H). Analysis for o-TBP.⅛CH2Cl2. Found: C, 87.03, H, 5.41, N, 5.23. Calculated: C, 87.51, H, 5.44, N, 5.35.

reactant | bathophenanthroline | C1=CC=C(C=C1)C2=C3C=CC4=C(C=CN=C4C3=NC=C2)C5=CC=CC=C5 | C24H16N2
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | 4,7-diphenyl-2,9-di-o-tolyl-1,10-phenanthroline | 20 percent yield | C1(=CC=CC=C1)C1=CC(=NC2=C3N=C(C=C(C3=CC=C12)C1=CC=CC=C1)C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C38H28N2
